US07560558B2
Compound 165: 1-[2-(6,7-Dimethoxy-quinolin-4-yloxy)-5-methyl-phenyl]-decane-1,10-diol
Methyl 10-[2-(6,7-dimethoxy-quinolin-4-yloxy)-5-methyl-phenyl]-10-oxo-decanoate (40 mg) was dissolved in tetrahydrofuran (3 ml), 0.93 M diisobutylaluminum hydride (1 ml) was added to the solution at 0° C., and the mixture was stirred at room temperature for 5 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using methanol-chloroform to give the title compound (4.9 mg, yield 13%).

reactant | Methyl 10-[2-(6,7-dimethoxy-quinolin-4-yloxy)-5-methyl-phenyl]-10-oxo-decanoate | 40 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)C)C(CCCCCCCCC(=O)OC)=O | C29H35NO6
reactant | diisobutylaluminum hydride | 0.93 M, 1 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Water | O | H2O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 1-[2-(6,7-Dimethoxy-quinolin-4-yloxy)-5-methyl-phenyl]-decane-1,10-diol | 4.9 mg, yield 13% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)C)C(CCCCCCCCCO)O | C28H37NO5
